US05387685
2-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]-heptyl]-1,2,3,4-tetrahydro-6,7,8-trimethoxyisoquinoline
The procedure of Example 49 is repeated using 5.31 g 4-[6-bromo-1-[(4-methylphenyl)thio]heptyl]-1,2-dimethoxybenzene, 3.29 g of 5,6-dimethoxyisoindoline and 2.65 g of 6,7,8-trimethoxy-1,2,3,4-tetrahydroisoquinoline. This affords 4.52 g of the desired product as a yellow oil.

reactant | 4-[6-bromo-1-[(4-methylphenyl)thio]heptyl]-1,2-dimethoxybenzene | 5.31 g | BrC(CCCCC(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC)C | C22H29BrO2S
reactant | 5,6-dimethoxyisoindoline | 3.29 g | COC=1C=C2CNCC2=CC1OC | C10H13NO2
reactant | 6,7,8-trimethoxy-1,2,3,4-tetrahydroisoquinoline | 2.65 g | COC=1C=C2CCNCC2=C(C1OC)OC | C12H17NO3
product | 2-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]-heptyl]-1,2,3,4-tetrahydro-6,7,8-trimethoxyisoquinoline | 4.52 g | COC=1C=C(C=CC1OC)C(CCCCCCN1CC2=C(C(=C(C=C2CC1)OC)OC)OC)SC1=CC=C(C=C1)C | C34H45NO5S
